US07314880B2
3-{(2R, 5S)-4-[(R)-(4-Diethylcarbamoylphenyl)(3-hydroxyphenyl)methyl]-2,5-dimethyl-1-piperazinylmethyl}benzoic acid
The 4-[(R)-((2S,5R)-2,5-dimethylpiperazin-1-yl)(3-hydroxyphenyl)methyl]-N,N-diethylbenzamide (2.50 g, 6.32 mmol) and 3-carboxybenzaldehyde (1.90 g, 12.64 mmol) were placed in a 250 mL flask with 60 mL of tetrahydrofuran and 0.80 mL (13.91 mmol) of acetic acid. The reaction was stirred at room temperature for 20 minutes, and sodium triacetoxyborohydride (2.68 g, 12.64 mmol) was added portionwise. The reaction solution became very turbid and was sealed under mntrogen and stirred overnight. The reaction mixture was evaporated to dryness and partitioned between ethyl acetate (60 mL) and 3M HCl (12 mL). The organic layer was extracted with a further 5×12 mL 3M HCl. The combined aqueous extracts were adjusted to pH 4.5-5 with 0.5 M NaOH solution and solid Na2CO3 The resulting gel was collected by filtration, dissolved in 30 mL of 0.5 M NaOH solution, and extracted with 20 mL of EtOAc/Et2O twice to remove impurities. 1M HCl was added dropwise to the aqueous solution to the precipitation point at pH 4.5-5. The resulting white gel was collected by filtration and washed with a small volume of cold water. The 3-{(2R,5S)-4-[(R)-(4-diethylcarbamoylphenyl)-(3-hydroxyphenyl)methyl]-2,5-dimethylpiperazin-1-ylmethyl}benzoic acid was dried in a vacuum oven (30 mmHg, 40° C.) to give 1.55 g of white solid. 1 H NMR (300 MHz, d6-DMSO): δ 0.99-1.20 (m, 12H); 1.89-2.05 (m, 2H); 2.48-2.65 (m, 5H); 3.06-3.57 (m, 5H); 3.78-3.83 (d, J=12.5 Hz, 1H); 4.94 (s, 1H); 6.63-6.84 (m, 3H); 7.09-7.91 (m, 9H); 9.36 (s, 1H).

reactant | 4-[(R)-((2S,5R)-2,5-dimethylpiperazin-1-yl)(3-hydroxyphenyl)methyl]-N,N-diethylbenzamide | 6.32 mmol, 2.50 g | C[C@@H]1N(C[C@H](NC1)C)[C@H](C1=CC=C(C(=O)N(CC)CC)C=C1)C1=CC(=CC=C1)O | C24H33N3O2
reactant | 3-carboxybenzaldehyde | 12.64 mmol, 1.90 g | C(=O)(O)C=1C=C(C=O)C=CC1 | C8H6O3
reactant | acetic acid | 13.91 mmol, 0.80 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 12.64 mmol, 2.68 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 3-{(2R, 5S)-4-[(R)-(4-Diethylcarbamoylphenyl)(3-hydroxyphenyl)methyl]-2,5-dimethyl-1-piperazinylmethyl}benzoic acid | 1.55 g | C(C)N(C(=O)C1=CC=C(C=C1)[C@@H](N1C[C@H](N(C[C@@H]1C)CC=1C=C(C(=O)O)C=CC1)C)C1=CC(=CC=C1)O)CC | C32H39N3O4
